Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
EGD ___
Colonoscopy ___
 
History of Present Illness:
___ is a ___ nurse at ___ who presents after 2 days 
of melena. This started while at work one day prior to 
presentation, when she had maroon colored stool that turned the 
toilet bowl water red; since then, she has had two more maroon 
tarry stools, which she tested and were guiaic positive. While 
driving to work this morning, she felt nauseous and lightheaded, 
had epigastric pressure, and she had a small tarry 
maroon-colored stool; she then presented to the ED. This 
epigastric pressure has been present intermittently over the 
past year, which she describes as worse after meals, 
occasionally radiating to her chest, associated with an acidic 
taste in her mouth. She denies association with exercise, 
radiation down her arm or up her neck. She states that she lost 
4 lbs over the past two days but denies change in appetite or 
diet; she additionally denies diarrhea and fevers. She has 
noticed a lymph node on her right neck over the past few days, 
but denies recent URI, fevers, or infection. She denies 
significant alcohol intake, history of liver disease, or history 
of bleeding disorders.

In the ED, initial vitals:  
T 97.8 P 81 BP 118/85 RR 14 SpO2 100% RA 
- Exam notable for: Pale complexion. 1x2cm posterior cervical 
lymph node. Mild focal epigastric tenderness.
- Labs notable for: CBC 6.8>11.6/35.1<257, MCV 96, INR 1.2, BMP 
and LFTs wnl
- Imaging notable for: EGD with normal esophageal and duodenal 
mucosa, erosions in incisura of the stomach (biopsies taken), 
otherwise normal. CXR wnl, no lymphadenopathy.
- Pt given: pantoprazole 40 mg IV
- Vitals prior to transfer:  

On arrival to the floor, she reports continued epigastric 
pressure. She denies bowel movements since presentation.
 
Past Medical History:
AV nodal reentry tachycardia 
D+C after delivery for retained placenta
Reconstructive breast surgery
 
Social History:
___
Family History:
Sister with gynecological cancer of unknown source (per patient 
affected cervix, uterus, and ovaries), in remission now, age ___. 
Paternal grandmother with lung cancer age ___, uterine cancer, 
multiple strokes. Paternal grandfather with metastatic melanoma. 
Father died of brain aneurysm rupture. Mother has hypertension.
 
Physical Exam:
ADMISSION EXAM:

Vitals-  T 98.1 P 42 BP 95/60 RR 16 SpO2 100% RA
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated. Soft, mobile, nontender 1x2cm 
lymph node in right posterior cervical chain. 
Lungs- CTAB no wheezes, rales, rhonchi  
CV- Bradycardic, regular rhythm, Nl S1, S2, No MRG  
Abdomen- soft, mild diffuse tenderness, tender to palpation in 
epigastric region. Bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE EXAM:
Vitals:  Tm 98.6 Tc 98.6 P ___ BP 107-115/66-70 RR 18 SpO2 
100% RA
Exam:  
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - EOMI, sclerae anicteric, MMM, OP clear
HEART - RRR, nl S1-S2, no MRG  
LUNGS - CTAB  
ABDOMEN - NABS, tender in epigastric region, soft/ND, no masses 
or HSM  
EXTREMITIES - WWP, no c/c, no edema, 2+ peripheral pulses  
NEURO - awake, A&Ox3 
 
Pertinent Results:
ADMISSION LABS:

___ 08:20AM   WBC-6.8 RBC-3.66* HGB-11.6 HCT-35.1 MCV-96 
MCH-31.7 MCHC-33.0 RDW-11.9 RDWSD-41.7
___ 08:20AM   PLT COUNT-257
___ 08:20AM   NEUTS-62.9 ___ MONOS-5.3 EOS-1.0 
BASOS-1.2* IM ___ AbsNeut-4.29 AbsLymp-1.99 AbsMono-0.36 
AbsEos-0.07 AbsBaso-0.08
___ 08:20AM   ___ PTT-28.2 ___
___ 08:20AM   GLUCOSE-83 UREA N-14 CREAT-0.8 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-25 ANION GAP-14
___ 08:20AM   ALT(SGPT)-12 AST(SGOT)-22 ALK PHOS-45 TOT 
BILI-1.3
___ 08:20AM   LIPASE-52
___ 08:20AM   ALBUMIN-4.2 CALCIUM-9.4 PHOSPHATE-3.6 
MAGNESIUM-1.9

DISCHARGE LABS:

___ 02:48PM BLOOD WBC-5.4 RBC-3.29* Hgb-10.6* Hct-31.7* 
MCV-96 MCH-32.2* MCHC-33.4 RDW-11.9 RDWSD-41.6 Plt ___
___ 06:37AM BLOOD Glucose-82 UreaN-7 Creat-0.7 Na-138 K-4.2 
Cl-109* HCO3-20* AnGap-13
___ 06:37AM BLOOD Calcium-8.1* Phos-3.0 Mg-1.8

PERTINENT STUDIES:

Gastric mucosal biopsy:
- Antral mucosa with mild regeneration of gastric pits, 
suggestive of a chemical/reactive gastropathy.

PROCEDURES:

EGD ___:
Impression: Erosions in the incisura of the stomach (biopsy)
Normal mucosa in the duodenum
Normal mucosa in the esophagus
Otherwise normal EGD to third part of the duodenum 

Recommendations: Follow up biopsy results.
No significant findings on EGD to explain melena. Recommend 
colonoscopy for further workup. 

Colonoscopy ___:
Impression: No blood or source of bleeding seen.
Otherwise normal colonoscopy to terminal ileum 

Recommendations: Likely source of bleeding were the gastric 
erosions seen on EGD on exam performed yesterday. 

 
Brief Hospital Course:
___ with melena x2 days and one year of epigastric pain.

#Upper GI Bleed:
She presented with two days of melena prior to admission, guaiac 
positive, in setting of one year of epigastric pain. An EGD was 
performed which showed gastric erosions, normal esophageal and 
duodenal mucosa; biopsies were taken which suggested 
chemical/reactive gastropathy. A colonoscopy was performed which 
was normal. Her hematocrit was 35.0 on admission and stable at 
31.7 on discharge without transfusion requirement.

#Bradycardia:
She was bradycardic to the ___ on admission, likely secondary to 
atenolol for AVNRT. This resolved and she remained in the 
___ during her admission.

#Lymphadenopathy:
She had a 1x2 cm lymph node in her right posterior cervical 
chain, which was soft, mobile, and nontender. This is likely 
reactive but warrants outpatient follow-up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 12.5 mg PO DAILY 
2. Ortho Tri-Cyclen LO (28) (norgestimate-ethinyl estradiol) 
0.18/0.215 mg/ 0.25 mg-25 mcg oral DAILY 

 
Discharge Medications:
1. Atenolol 12.5 mg PO DAILY 
2. Ortho Tri-Cyclen LO (28) (norgestimate-ethinyl estradiol) 
0.18/0.215 mg/ 0.25 mg-25 mcg oral DAILY 
3. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Gastrointestinal bleed
Peptic ulcer disease

SECONDARY DIAGNOSIS:
Lymphadenopathy

 
Discharge Condition:
Mental status: Clear and coherent.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory - independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___. You came to the hospital because of a 
gastrointestinal bleed. While you were here, blood was found in 
your stool. You had an upper GI endoscopy to look at your 
esophagus, stomach, and part of your small intestine, which 
showed erosions in your stomach. You also had a colonoscopy 
which was normal.

When you left the hospital, your hematocrit was stable. We are 
still waiting for tests to come back to look for a bacterial 
cause of your stomach pain, and we will let you know when those 
results return.

Please return to the hospital if you continue to have blood in 
your stool.

We wish you the best!
- Your ___ team
 
Followup Instructions:
___